US04760180
N-[(1,1-dimethylethoxy)carbonyl]-N-(2-propenyl)-D-alanine
Allyl iodide (6.72 g, 40.0 mmol) replaced methyl iodide and Boc-(D)-alanine (1.89 g, 10.0 mmol) replaced Z-(D)alanine in the reaction of Example 15. They were reacted using sodium hydride (30.0 mmol, 50% suspension in mineral oil) and THF (30 ml). 2.27 g of oil was obtained using the procedure and work-up of Example 15.

reactant | Allyl iodide | 40.0 mmol, 6.72 g | C(C=C)I | C3H5I
reactant | methyl iodide | CI | CH3I
reactant | Boc-(D)-alanine | 10.0 mmol, 1.89 g | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)O | C8H15NO4
reactant | sodium hydride | 30.0 mmol | [H-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-[(1,1-dimethylethoxy)carbonyl]-N-(2-propenyl)-D-alanine | 2.27 g | CC(C)(OC(=O)N([C@H](C)C(=O)O)CC=C)C | C11H19NO4
